US04459414
2 g (4.46 millimols) of tetrabromophthalimide, 1.61 g (11.15 millimols) of p-chlorothiophenol, 2.31 g (16.73 millimols) of potassium carbonate and 20 ml of tetrahydrofuran are stirred at 25° C. for 14 hours. After acidification with dilute HCl solution, the mixture is extracted with tetrahydrofuran/toluene and the extracts are dried and evaporated. After recrystallisation from toluene/cyclohexane, 0.61 g (25% of theory) of 3,4,5-tris-(p-chlorophenylthio)-6-bromophthalimide is obtained; melting point 164°-9° C.

reactant | tetrabromophthalimide | 4.46 millimols, 2 g | BrC=1C(=C(C(=C2C1C(=O)NC2=O)Br)Br)Br | C8HBr4NO2
reactant | p-chlorothiophenol | 11.15 millimols, 1.61 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 16.73 millimols, 2.31 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3,4,5-tris-(p-chlorophenylthio)-6-bromophthalimide | 0.61 g, 25% | ClC1=CC=C(C=C1)SC1=C2C(C(=O)NC2=O)=C(C(=C1SC1=CC=C(C=C1)Cl)SC1=CC=C(C=C1)Cl)Br | C26H13BrCl3NO2S3
